US07776847B2
A mixture of 6-(2-(benzo[d]isothiazol-3-ylamino)ethylcarbamoyl)nicotinic acid (62 mg, 0.13 mmol), diethyl cyanophosphonate (21 μL, 0.14 mmol), methylamine (2.0M soln in THF, 15 μL, 0.14 mmol) and triethylamine (20 μL, 0.14 mmol) in dichloromethane (5 mL) was allowed to stir at room temperature overnight. The solution was washed with water, then dried over anhydrous sodium sulfate, filtered and the filtrate concentrated under reduced pressure. Purification by column chromatography, on silica gel, eluting with a mixture of 30% ethyl acetate in hexanes, and selected fractions were combined and concentrated under reduced pressure to yield N2-(2-(benzo[d]isothiazol-3-ylamino)ethyl)-N5-methylpyridine-2,5-dicarboxamide as a white solid, (50 mg). 1H NMR (300 MHz, DMSO-d6): 9.16 (broad s, 1H), 8.99 (s, 1H), 8.79 (m, 1H), 8.37 (d, 1H), 8.23 (t, 2H), 7.91 (d, 1H), 7.58 (s, 1H), 7.49 (t, 1H), 7.39 (t, 1H), 3.61 (m, 3H), 3.34 ppm (m, 4H). MW=355 confirmed by LC-MS, tr=2.98 min (Method B) MH+=356.

reactant | 6-(2-(benzo[d]isothiazol-3-ylamino)ethylcarbamoyl)nicotinic acid | 0.13 mmol, 62 mg | S1N=C(C2=C1C=CC=C2)NCCNC(=O)C2=NC=C(C(=O)O)C=C2 | C16H14N4O3S
reactant | diethyl cyanophosphonate | 0.14 mmol, 21 μL | C(#N)P(OCC)(OCC)=O | C5H10NO3P
reactant | methylamine | 0.14 mmol, 2.0M, 15 μL | CN | CH5N
reactant | triethylamine | 0.14 mmol, 20 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N2-(2-(benzo[d]isothiazol-3-ylamino)ethyl)-N5-methylpyridine-2,5-dicarboxamide | S1N=C(C2=C1C=CC=C2)NCCNC(=O)C2=NC=C(C=C2)C(=O)NC | C17H17N5O2S
